US04703054
The same procedure of Example 2, starting from 2,2,4- trimethyl-5-oxo-1-imidazolidineacetamide and N-benzyloxycarbonylglycine, afforded 3-(2-benzyloxycarbonylaminoacetyl)-2,2,4-trimethyl-5-oxo-1-imidazolidineacetamide, as an oil, then the title compound, m.p. 118° C. Mass spectrum (E.I., 70 eV, 1.5 mA), m/z=212 (M.+ --CH4N), 184 (M.+ --C2H4NO).

reactant | 2,2,4- trimethyl-5-oxo-1-imidazolidineacetamide | CC1(N(C(C(N1)C)=O)CC(=O)N)C | C8H15N3O2
reactant | N-benzyloxycarbonylglycine | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
product | 3-(2-benzyloxycarbonylaminoacetyl)-2,2,4-trimethyl-5-oxo-1-imidazolidineacetamide | C(C1=CC=CC=C1)OC(=O)NCC(=O)N1C(N(C(C1C)=O)CC(=O)N)(C)C | C18H24N4O5
